US06124317
2-Benzylpiperdine Hydrochloride
A solution of 2-benzylpyridine (2.0 g, 12 mmol) in MeOH (50 mL) containing conc. HCl (1 mL) was hydrogenated in a Parr apparatus over Pt (PtO2, 30 mg) at 25° C. The reaction was allowed to proceed at 22 psi for 5 h, 45 psi for 4 h, then overnight at 22 to 12 psi. The catalyst was removed by filtration and the solvent was removed in vacuo to give a syrup. Absolute EtOH (50 mL) was added and then evaporated in vacuo. This was repeated to give a near colorless solid. The solid was triturated with ether (2×20 mL) and dried in vacuo to give a colorless powder (2.36 g, 94% yield); mp 128-131° C., lit. 125-130° C. (vide supra); 1H NMR (D2O) 1.45-2.05 (m, 6H), 2.80-3.05 (m, 3H), 3.27-3.45 (m, 2H) 7.26-7.46 (m, 5H).

reactant | 2-benzylpyridine | 12 mmol, 2.0 g | C(C1=CC=CC=C1)C1=NC=CC=C1 | C12H11N
reactant | HCl | 1 mL | Cl | ClH
reactant | EtOH | 50 mL | CCO | C2H6O
solvent | MeOH | 50 mL | CO | CH4O
product | 2-Benzylpiperdine Hydrochloride | 2.36 g, 94% yield | Cl.C(C1=CC=CC=C1)C1NCCCC1 | InChI=1S/C12H17N.ClH/c1-2-6-11(7-3-1)10-12-8-4-5-9-13-12;/h1-3,6-7,12-13H,4-5,8-10H2;1H
